US06919331B2
4-(3-Hydroxy-propylamino)-3-nitro-benzonitrile was prepared as described for 4-(3-methyl-butylamino)-3-nitro-benzonitrile using 3-amino-propan-1-ol.

reactant | 4-(3-methyl-butylamino)-3-nitro-benzonitrile | CC(CCNC1=C(C=C(C#N)C=C1)[N+](=O)[O-])C | C12H15N3O2
reactant | 3-amino-propan-1-ol | NCCCO | C3H9NO
product | 4-(3-Hydroxy-propylamino)-3-nitro-benzonitrile | OCCCNC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C10H11N3O3
